US05302582
A dry mixture of 40 ml of methanol and 10 ml of pyridine was added to 100 mg of dry D-isoleucine together with 300 mg of anhydrous glucose, and reaction and purification were carried out as described in Example 9, but making use of smaller-volume chromatography columns. Crystallization of the final product yielded 110 mg of N-(1-deoxyfructopyranos-1-yl)-D-isoleucine. Melting point 142°-144° C.

reactant | methanol | 40 ml | CO | CH4O
reactant | D-isoleucine | 100 mg | N[C@H]([C@H](C)CC)C(=O)O | C6H13NO2
reactant | glucose | 300 mg | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(1-deoxyfructopyranos-1-yl)-D-isoleucine | 110 mg | C(C1(O)[C@@H](O)[C@H](O)[C@H](O)CO1)N[C@H]([C@H](C)CC)C(=O)O | C12H23NO7
